US08008303B2
(R)-2-(4′-Carboxy-6-chloro-biphenyl-3-ylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester
(R)-2-(6-Chloro-4′-ethoxycarbonyl-biphenyl-3-ylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (985 mg) in 2M NaOH (5 ml) and ethanol (7 ml) was stirred at room temp for 18 h. The ethanol was then evaporated and the residue acidified with HCl. The resulting yellow solid was collected by filtration and dried (672 mg). Material used without purification in next step.

reactant | (R)-2-(6-Chloro-4′-ethoxycarbonyl-biphenyl-3-ylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 985 mg | C(C)(C)(C)OC(=O)N1[C@H](CCC1)C(NC=1C=C(C(=CC1)Cl)C1=CC=C(C=C1)C(=O)OCC)=O | C25H29ClN2O5
solvent | NaOH | 2M, 5 ml | [OH-].[Na+]
solvent | ethanol | 7 ml | C(C)O | C2H6O
product | (R)-2-(4′-Carboxy-6-chloro-biphenyl-3-ylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@H](CCC1)C(NC=1C=C(C(=CC1)Cl)C1=CC=C(C=C1)C(=O)O)=O | C23H25ClN2O5
